2110-03-23 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2110-3-22**] 08:09 AM
 DIALYSIS CATHETER - START [**2110-3-22**] 08:45 AM
   Renal US showed small echogenic kidneys
   Received 2U PRBC yest morning
   Started on HD, 2L taken off
   Pt with elevated BP last pm to 180s, restarted on nitro gtt and given
   labetalol 10mg X1
   Sedation changed from fent/versed to propofol for planned attempted
   extubation this am
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1.4 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2110-3-22**] 10:00 PM
   Labetalol - [**2110-3-23**] 04:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-23**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 74 (60 - 99) bpm
   BP: 150/80(100) {137/80(100) - 195/120(135)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,620 mL
                                                                    244 mL
   PO:
             TF:
   IVF:
                                                                    810 mL
                                                                    244 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,483 mL
                                                                     80 mL
   Urine:
                                                                    483 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 740 (740 - 740) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.41/34/201/19/-1
   Ve: 8.2 L/min
   PaO2 / FiO2: 402
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   98 K/uL
   7.9 g/dL
   131 mg/dL
   17.7 mg/dL
   19 mEq/L
   4.8 mEq/L
   123 mg/dL
   103 mEq/L
   142 mEq/L
   22.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2110-3-22**]  07:48 AM
                             [**2110-3-22**]  09:50 AM
                             [**2110-3-22**]  01:25 PM
                             [**2110-3-22**]  01:44 PM
                             [**2110-3-22**]  04:11 PM
                             [**2110-3-22**]  04:27 PM
                             [**2110-3-22**]  06:35 PM
                             [**2110-3-22**]  08:58 PM
                             [**2110-3-23**]  05:31 AM
                             [**2110-3-23**]  06:37 AM
   WBC
   7.2
   7.2
   Hct
   23.0
   23.8
   22.2
   Plt
   82
   76
   98
   Cr
   17.7
   TropT
   0.29
   TCO2
   24
   24
   25
   23
   23
   21
   22
   Glucose
   131
   Other labs: PT / PTT / INR:13.3/23.6/1.1, CK / CKMB /
   Troponin-T:476/8/0.29, ALT / AST:18/16, Alk Phos / T Bili:65/0.7,
   Differential-Neuts:91.9 %, Lymph:5.2 %, Mono:2.3 %, Eos:0.6 %,
   Fibrinogen:554 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:634
   IU/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:10.9 mg/dL
   Imaging: ETT and NGT remain in place. Compared to the most recent prior
   study, there
   is a decreased amount of airspace disease in the paracentral location
   with a
   small residual. Pulmonary vascular markings are somewhat distended but
   greater than that seen previously. Heart size is stable and enlarged.
   IMPRESSION: Continued improvement in fluid overload with residual
   features.
   Microbiology: [**2110-3-22**] 2:54 am URINE     Site: CATHETER
      URINE CULTURE (Pending):
   Assessment and Plan
   26 yo M with no PMH admitted with respiratory failure and marked acute
   renal failure of unknown etiology.
   .
   # Respiratory Failure: patient is clearly volume overloaded likely
   secondary to acute renal failure. It is unclear at this time if there
   is also a component of primary pulmonary disease within the spectrum of
   a systemic vasculitis resulting in alveolitis or focal/DAH and this
   would aid in distinguishing some of the DDx listed below. Currently,
   the patient is intubated. Would initiate ARDSnet ventilation until we
   have a better idea what his lung compliance is.
   - ventilate with volumes of [**5-19**] mL/kg
   - switch to fent/midaz
   - a line
   - VAP bundle
   - Chest CT once stabilized
   - mini BAL now, send sputum cell count with diff and cytology
   - consider bronch in AM
   .
   # Acute Renal Failure: the patient meets all but one of the indications
   for dialysis (acidosis, electrolyte derangements, overload and uremia)
   and at this point requires volume removal emergently given his
   respiratory failure and hypertension. Renal will be coming in to place
   a line and to initiate RRT. Etiologies at this time include TTP/HUS,
   vasculitic process including Wegener's, microscopic polyangiitis,
   Churg-[**Doctor Last Name 614**] (but no eos on peripheral smear), HSP (no skin findings
   on exam), Cryoglobulinemia (but he is young for this dx), anti-GBM,
   Goodpasture's. SLE is also on the differential at this time. UA with
   large blood and 500 protein is indicative of a glomerulonephritis, but
   will need to look for dyspmorphic red cells/red cell casts on sediment.
   -Emergent renal consult, will need line and HD
   -Rheum c/s, consider path/blood bank consult
   -UA, urine sediment, peripheral smear
   -will need renal bx
   -anca, [**Doctor First Name **]
   -anti-GBM
   -HIV test
   -ADAMTS13 level, coombs, LDH, haptoglobin, indirect bili
   -hepatitis B/C serologies
   -C3, C4 levels
   -stool cultures+O157
   .
   # Hypertensive Emergency: on nitro gtt, but should be able to wean with
   fent/versed. Needs HD for acute management. CT head without obvious
   bleed but poor study, may need to repeat.
   - caution with lowering too quickly, unclear what his baseline
   pressures are
   .
   # Anion Gap Metabolic Acidosis - AG is 20, and delta-delta is 1.6,
   indicating a pure AG metabolic acidosis (although given the renal
   failure there is likely a component of NG acidosis as well). This is
   most likely due to uremia at this time. Needs HD.
   - check ABG and adjust vent to help with acid/base status for now
   .
   # Elevated CE's: patient is very volume overloaded, so likely etiology
   is significant strain, however, can consider myocarditis in the setting
   of vasculitis, specifically Wegener's. EKG with nonspecific findings
   but no evidence of acute ischemia.
   - monitor on tele
   - trend CE's.
   .
   # Anemia/Thrombocytopenia: likely within the spectrum of one of the
   disease entities discussed above.
   - maintain active T&S
   - transfuse for Hct<21, plts<50 if bleeding
   .
   # FEN: No IVF, NPO
   .
   # Prophylaxis: Boots, no heparin; VAP bundle, ppi
   .
   # Access: peripherals
   .
   # Code: full, consent in chart for ICU and blood
   .
   # Communication: Brother
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-3-22**] 06:28 AM
   Arterial Line - [**2110-3-22**] 07:30 AM
   Dialysis Catheter - [**2110-3-22**] 08:45 AM
   20 Gauge - [**2110-3-23**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-03-23 08:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2110-3-22**] 08:09 AM
 DIALYSIS CATHETER - START [**2110-3-22**] 08:45 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1.4 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2110-3-22**] 10:00 PM
   Labetalol - [**2110-3-23**] 04:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-23**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 79 (60 - 92) bpm
   BP: 158/90(113) {137/80(100) - 195/120(134)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,620 mL
                                                                    254 mL
   PO:
             TF:
   IVF:
                                                                    810 mL
                                                                    254 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,483 mL
                                                                    100 mL
   Urine:
                                                                    483 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 700 (700 - 740) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 21
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.41/34/201/19/-1
   Ve: 7.5 L/min
   PaO2 / FiO2: 402
   Physical Examination
   General: Intubated and sedated
   HEENT: PERRL, pupils pinpoint. Sclerae anicteric, MMM, oropharynx
   clear; nares with crusted blood.
   Neck: supple, JVP to 9cm, no LAD
   Lungs: Rhonchorous diffusely with scattered rales
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: +clonus at ankles
   .Skin: no purpura
   Labs / Radiology
   7.9 g/dL
   98 K/uL
   131 mg/dL
   17.7 mg/dL
   19 mEq/L
   4.8 mEq/L
   123 mg/dL
   103 mEq/L
   142 mEq/L
   22.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2110-3-22**]  07:48 AM
                             [**2110-3-22**]  09:50 AM
                             [**2110-3-22**]  01:25 PM
                             [**2110-3-22**]  01:44 PM
                             [**2110-3-22**]  04:11 PM
                             [**2110-3-22**]  04:27 PM
                             [**2110-3-22**]  06:35 PM
                             [**2110-3-22**]  08:58 PM
                             [**2110-3-23**]  05:31 AM
                             [**2110-3-23**]  06:37 AM
   WBC
   7.2
   7.2
   Hct
   23.0
   23.8
   22.2
   Plt
   82
   76
   98
   Cr
   17.7
   TropT
   0.29
   TCO2
   24
   24
   25
   23
   23
   21
   22
   Glucose
   131
   Other labs: PT / PTT / INR:13.3/23.6/1.1, CK / CKMB /
   Troponin-T:476/8/0.29, ALT / AST:18/16, Alk Phos / T Bili:65/0.7,
   Differential-Neuts:91.9 %, Lymph:5.2 %, Mono:2.3 %, Eos:0.6 %,
   Fibrinogen:554 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:634
   IU/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:10.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   26 yo M with no PMH admitted with respiratory failure, marked acute
   renal failure, HTN emergency, pink frothy sputum vs hemoptysis, nose
   bleed of unknown etiology.  Patient with presentation with profound new
   onset acute renal failure with likely associated pulmonary edema,
   bleeding, hyperkalemia, anemia, uremia.  Of note he does have
   significant Pancytopenia and with shistocytes noted upon peripheral
   smear.  This raises the issue of possible TTP/HUS and hematology has
   been evaluated for possible diagnosis on this front with smear findings
   showing low grade hemolysis.
   Acute Renal Failure-
   -Differential diagnosis is extensive
vasculitis is certainly likely
   with extensive evaluation sent.  No RBC casts seen, small kidneys note
   on ultrasound.  No obstruction suggested with foley placement to
   suggest obstruction and no hydronephrosis seen.  TTP/HUS unlikely with
   such dense renal failure and minimal thrombocytopenia
   -HD today
   -Continue daily dialysis depending on response to initial intervention
   Respiratory Failure
Acute-
   -Secondary to pulmonary edema in the setting of significant volume
   overload and pulmonary edema
   -Doubt DAH as significant clearing with dialysis
   Pancytopenia
most prominently anemia which may be related to renal
   failure
   -Hemolysis modest
   -Will follow up with Heme team recs
   DD:
   TTP/HUS: LDH high, indirect bili pend, coags wnl, coobs/hapto pend
   Vasculitis: [**Doctor First Name **], DSDNA, ANCA, anti-GBM, SLE pend, but no red cell
   casts, Hep B/C serology pend, cryo level pend
   HSP unlikely coz no skin findings
   Resp: Pulm edema vs DAH. Compliance 40. Keep plateau < 30
   Check diff on mini BAL. Sputum cxs. F/u ABG, anion gap metabolic
   acidosis.
   Solumedrol 500 mg x 1 till sorted further.
   BAL later today to look for DAH
   CT chest
   Renal: HD today, ? start steroids, ? renal bx.
   Heme: schistocytes, consult for pheresis for TTP. F/u anemia and
   thrombocytopenia. Tranfuse Hct 21, plt 50
   Rheum c/s: to help with mgmt if vasculitis
   HTN: Keep SBP 160
   Card: Follow cardiac enzymes and EKG. ? myocarditis
   Endo: Follow sugars on steroids
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: checking fingersticks to evaluate
   Lines:
   18 Gauge - [**2110-3-22**] 06:29 AM
   20 Gauge - [**2110-3-22**] 06:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Brother [**Name (NI) 4505**]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2110-03-24 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated yestday morning successfully.
   q6h hour DIC labs stable, patient not in DIC per Heme/Onc.
   Renal recs yesterday: Solumedrol 250mg IV x 1, [**Doctor Last Name **] hydroxide, Calcium
   Gluconate.  Plan is for renal biopsy today
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 87 (79 - 94) bpm
   BP: 131/76(95) {131/76(95) - 168/106(132)} mmHg
   RR: 16 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    962 mL
                                                                    314 mL
   PO:
                                                                    180 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    407 mL
                                                                     74 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,630 mL
                                                                    102 mL
   Urine:
                                                                    330 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,668 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 700 (700 - 700) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: 7.46/36/124/22/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: Awake, alert, communicative
   HEENT: PERRL. Sclerae anicteric, MMM, oropharynx clear.
   Neck: supple, JVP to 9cm, no LAD
   Lungs: CTAB no w/r/r
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs. +S4
   today.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: nonfocal
   .Skin: no purpura
   Labs / Radiology
   107 K/uL
   9.3 g/dL
   186 mg/dL
   13.3 mg/dL
   22 mEq/L
   4.8 mEq/L
   94 mg/dL
   99 mEq/L
   138 mEq/L
   26.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2110-3-23**]  06:37 AM
                             [**2110-3-23**]  08:10 AM
                             [**2110-3-23**]  08:59 AM
                             [**2110-3-23**]  11:14 AM
                             [**2110-3-23**]  02:04 PM
                             [**2110-3-23**]  02:17 PM
                             [**2110-3-23**]  06:45 PM
                             [**2110-3-23**]  09:15 PM
                             [**2110-3-24**]  03:22 AM
                             [**2110-3-24**]  04:01 AM
   WBC
   8.1
   11.1
   9.1
   5.7
   Hct
   21.5
   26.0
   27.9
   26.7
   Plt
   101
   114
   108
   107
   Cr
   18.2
   13.3
   TropT
   0.41
   TCO2
   22
   21
   27
   26
   27
   26
   Glucose
   126
   186
   Other labs: PT / PTT / INR:12.8/24.0/1.1, CK / CKMB /
   Troponin-T:313/4/0.41, ALT / AST:18/14, Alk Phos / T Bili:62/1.4,
   Differential-Neuts:91.9 %, Lymph:5.2 %, Mono:2.3 %, Eos:0.6 %,
   D-dimer:2286 ng/mL, Fibrinogen:554 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, LDH:595 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:10.2 mg/dL
   Assessment and Plan
   26 yo M with no PMH admitted with severe acute renal failure, volume
   overload and hemolysis
   .
   # Acute Renal Failure: Seems to be acute on chronic, given level of
   creatinine and renal ultrasound demonstrating small atrophic kidneys,
   pointing to more chronic process.  HD initiated and patient
   electrolyte derangements are much improved.
   - Continue HD today, next on wednesday
   -renal bx today, gave ddAVP prior to procedure
   -anca, [**Doctor First Name **], anti-GBM, -hepatitis B/C serologies,C 3, C4 levels, DS DNA,
   lupus anticoag pending
   - appreciate heme/renal recs
   # Respiratory Failure: Extubated yesterday. Doing well today. Etiology
   was likely flash pulmonary edema in the setting of malignant
   hypertension.
   -          Continue HD for volume overload
   -          Vasculitic w/u as above
   -          Consider Chest CT
   .
   # Hypertensive Emergency: resolved. ?RAS, renal u/s could not eval
   blood flow. Likely will need to repeat this study. ?ACEI. Run BP
   between 140-170 systolic.
   .
   # Hemolysis: Pt with evidence of mild microangiopathic changes with low
   hapto, elevated LDH. However T Bili nl indicating low level hemolysis.
   Few schistos on smear. [**Month (only) 8**] have microangiopathic changes related to
   severe HTN per heme.
   - Treat HTN as above
   - W/u vascultis as above
   - maintain active T&S
   - Trend hemolysis labs [**Hospital1 **]
   - transfuse for Hct<21, plts<50 if bleeding
   # Elevated CE's: patient is very volume overloaded, so likely etiology
   is significant strain. EKG with nonspecific findings but no evidence of
   acute ischemia.
   - monitor on tele
   - trend CE's.
   .
   # FEN: No IVF, renal/diabetic diet (diabetic secondary to high glucose
   after steroids)
   .
   # Prophylaxis: Boots, no heparin; ppi. Can likely start heparin after
   bx.
   .
   # Access: peripherals, aline (can d/c today). HD cath.
   .
   # Code: full, consent in chart for ICU and blood
   .
   # Communication: Brother; patient.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-3-22**] 06:28 AM
   Arterial Line - [**2110-3-22**] 07:30 AM
   Dialysis Catheter - [**2110-3-22**] 08:45 AM
   20 Gauge - [**2110-3-23**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-03-24 10:05:00 Physician Attending Progress Note
Chief Complaint: Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2110-3-23**] 09:27 AM
   Extubated yesterday.
   DIC labs stable
   Solumedrol 250 x 1 per renal recs
   Renal bx today
   HD today
   Will be started on renal meds
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2110-3-24**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-24**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 94 (79 - 94) bpm
   BP: 143/88(110) {125/74(91) - 168/106(132)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    962 mL
                                                                    538 mL
   PO:
                                                                    180 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    407 mL
                                                                     98 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,630 mL
                                                                    118 mL
   Urine:
                                                                    330 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,668 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.46/36/124/22/2
   PaO2 / FiO2: 248
   Physical Examination
   General: AAO x 3, NAD
   HEENT: PERRL,. Sclerae anicteric, MMM, oropharynx clear;
   Neck: supple, JVP to 9cm, no LAD
   Lungs: CTA
   CV: Regular rate and rhythm, normal S1 + S2, + gallop
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: wnl
   .Skin: no purpura
   Labs / Radiology
   9.3 g/dL
   107 K/uL
   186 mg/dL
   13.3 mg/dL
   22 mEq/L
   4.8 mEq/L
   94 mg/dL
   99 mEq/L
   138 mEq/L
   26.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2110-3-23**]  06:37 AM
                             [**2110-3-23**]  08:10 AM
                             [**2110-3-23**]  08:59 AM
                             [**2110-3-23**]  11:14 AM
                             [**2110-3-23**]  02:04 PM
                             [**2110-3-23**]  02:17 PM
                             [**2110-3-23**]  06:45 PM
                             [**2110-3-23**]  09:15 PM
                             [**2110-3-24**]  03:22 AM
                             [**2110-3-24**]  04:01 AM
   WBC
   8.1
   11.1
   9.1
   5.7
   Hct
   21.5
   26.0
   27.9
   26.7
   Plt
   101
   114
   108
   107
   Cr
   18.2
   13.3
   TropT
   0.41
   TCO2
   22
   21
   27
   26
   27
   26
   Glucose
   126
   186
   Other labs: PT / PTT / INR:12.8/24.0/1.1, CK / CKMB /
   Troponin-T:313/4/0.41, ALT / AST:18/14, Alk Phos / T Bili:62/1.4,
   Differential-Neuts:91.9 %, Lymph:5.2 %, Mono:2.3 %, Eos:0.6 %,
   D-dimer:2286 ng/mL, Fibrinogen:554 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, LDH:595 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:10.2 mg/dL
   Fluid analysis / Other labs: Multiple serologies pend
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   26 yo M with no PMH admitted with respiratory failure from pulmonary
   edema, uremia and marked acute renal failure, HTN emergency, anemia and
   e/o mild hemolysis and thrombocytopenia.
   DD: pulm renal syndrome unlikely with rapid resolution of pulm
   edema/pink frothy sputum after dialysis. ANCA, anti-GBM, [**Doctor First Name **] pend
   Chr HTN with emergency: control with iv/po meds
   TTP/HUS: low grade hemolysis with renal failure out of proportion to
   it
hemolysis labs all improved...likely related to HTN emergency
   Resp: stable on RA, no more pulm edema nor hemoptysis since dialysis
   and fluid taken off. No indication for further steroids.
   Renal: HD today. Renal bx today. More steroids based on results of
   vasculitis w/u labs and renal bx.  Renal A were not well visualized due
   to movt. D/c foley.
   Heme: stable w/o intervention.
   HTN: D/c a line. Rx with Ca channel blocker.
   Card: Elevated enzymes in setting of renal failue and strain. EKG
   today. TTE pend.
   Start sq heparin after renal bx
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2110-3-22**] 06:28 AM
   Arterial Line - [**2110-3-22**] 07:30 AM
   Dialysis Catheter - [**2110-3-22**] 08:45 AM
   20 Gauge - [**2110-3-23**] 06:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  35 min